US06747023B1
1,4-Bis(tert-butoxycarbonyl)-2-(2-cyanoethyl)piperazine
To an aqueous solution (3.0 ml) of potassium cyanide (85.0 mg) was added a solution of 1,4-bis(t-butoxycarbonyl)-2-(2-bromoethyl)piperazine (393 mg) in ethanol (3.0 ml), followed by stirring under heat at 110° C. for 3 hours. After the removal of ethanol by distillation under reduced pressure, methylene chloride (100 ml) was added to the residue. The organic layer was washed with distilled water until the water phase became neutral. The resulting organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column (silica gel 15 g, hexane:ethyl acetate=2:1), whereby the title compound (145.0 mg, 43%) was obtained as a white solid.

reactant | potassium cyanide | 3.0 ml, 85.0 mg | [C-]#N.[K+]
reactant | 1,4-bis(t-butoxycarbonyl)-2-(2-bromoethyl)piperazine | 393 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCBr | C16H29BrN2O4
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 1,4-Bis(tert-butoxycarbonyl)-2-(2-cyanoethyl)piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCC#N | C17H29N3O4
